US06121285
4-(1-Ethoxycarbonylcyclobutyl)-1-[1-(S)-phenylethyl]-3-pyrrolin-2-one
(E)-Ethyl 3-(1-ethoxycarbonylcyclobutyl)-2-butenoate (16.91 g, 70 mmol) was dissolved in chloroform (180 ml) and N-bromosucciniinide (12.53 g, 70 mmol) and a catalytic amount of azobisisobutyronitrile were added thereto. The thus obtained mixture was heated under reflux for 18 hours. After completing of the reaction, the solvent was evaporated and carbon tetrachloride (100 ml) was added to the residue. Then, insoluble matter was filtered off and the filtrate was concentrated. The residue was dissolved in ethanol (100 ml) and sodium hydrogencarbonate (11.82 g, 140 mmol) was added thereto. Next, (S)-phenylethylamine (9.87 ml, 77 mmol) was added dropwise thereinto at room temperature. After completing the addition, the resultant mixture was heated under reflux for 3 hours. After completing the reaction, the solvent was evaporated and methylene chloride (300 ml) was added to the residue. The insoluble matter was filtered off and the solvent was evaporated. The residue thus obtained was subjected to silica gel column chromatography (eluent:n-hexane:ethyl acetate=1:1) to obtain 19.57 g (43%) of the title compound as an oily substance.

reactant | (E)-Ethyl 3-(1-ethoxycarbonylcyclobutyl)-2-butenoate | 70 mmol, 16.91 g | C(C)OC(=O)C1(CCC1)/C(=C/C(=O)OCC)/C | C13H20O4
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium hydrogencarbonate | 140 mmol, 11.82 g | C(O)([O-])=O.[Na+]
reactant | n-hexane | CCCCCC | C6H14
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-Ethoxycarbonylcyclobutyl)-1-[1-(S)-phenylethyl]-3-pyrrolin-2-one | 19.57 g, 43% | C(C)OC(=O)C1(CCC1)C1=CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C19H23NO3
